US04616023
In a similar manner, 0.5 gram (13 millimoles) of sodium borohydride was added to a solution of 2.26 grams (13 millimoles) of 6,11-dihydrodibenzo[b,e]thiepin-11-one in 50 milliliters of ethanol to which a few drops of 40 percent sodium hydroxide had been added and the mixture stirred at room temperature overnight to obtain 6,11-dihydrodibenzo[b,e]thiepin-11-ol intermediate in the reaction mixture. Thereafter, in the manner previously described, the thiepinol intermediate was recovered by adding water to the mixture, subjecting the mixture to reduced pressure, adding ether and extracting therewith, washing and drying the ether solution, filtering the drying agent and vaporizing the ether to obtain an oily residue of 6,11-dihydrodibenzo[b,d]thiepin-11-ol.

reactant | sodium borohydride | 13 millimoles, 0.5 gram | [BH4-].[Na+]
reactant | 6,11-dihydrodibenzo[b,e]thiepin-11-one | 13 millimoles, 2.26 grams | C1=CC=CC=2SCC3=C(C(C21)=O)C=CC=C3 | C14H10OS
solvent | ethanol | 50 milliliters | C(C)O | C2H6O
catalyst | sodium hydroxide | a few drops | [OH-].[Na+]
product | 6,11-dihydrodibenzo[b,e]thiepin-11-ol | C1=CC=CC=2SCC3=C(C(C21)O)C=CC=C3 | C14H12OS
